US07750003B2
1-[4-[4-[(3,5-Difluorophenyl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-ethyl-urea
The following compounds were made in an analogous fashion from either phenyl N-[4-[4-[(3,5-difluorophenyl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate or phenyl N-[4-[4-[2-(3,5-difluorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate and the appropriate amine.

reactant | phenyl N-[4-[4-[(3,5-difluorophenyl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate | FC=1C=C(C=C(C1)F)S(=O)(=O)CC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C29H26F2N4O5S
reactant | phenyl N-[4-[4-[2-(3,5-difluorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate | FC=1C=C(C=C(C1)F)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C31H30F2N4O5S
product | 1-[4-[4-[(3,5-Difluorophenyl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-ethyl-urea | FC=1C=C(C=C(C1)F)S(=O)(=O)CC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(=O)NCC | C25H27F2N5O4S
